US06664412B2
Methyl (S)-2-amino-6-methyl-6-nitroheptanoate Hydrochloride
(S)-2-Amino-6-methyl-6-nitroheptanoic acid (20.5 g) was dissolved in methanol (177 ml) and thionyl chloride (7.34 ml) was gently added dropwise under ice-cooling. The mixture was refluxed under heating for 2.5 h, and methanol was concentrated under reduced pressure to give the objective compound (21.9 g).

reactant | (S)-2-Amino-6-methyl-6-nitroheptanoic acid | 20.5 g | N[C@H](C(=O)O)CCCC(C)([N+](=O)[O-])C | C8H16N2O4
reactant | thionyl chloride | 7.34 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 177 ml | CO | CH4O
product | Methyl (S)-2-amino-6-methyl-6-nitroheptanoate Hydrochloride | 21.9 g | Cl.N[C@H](C(=O)OC)CCCC(C)([N+](=O)[O-])C | InChI=1S/C9H18N2O4.ClH/c1-9(2,11(13)14)6-4-5-7(10)8(12)15-3;/h7H,4-6,10H2,1-3H3;1H/t7-;/m0./s1
